US08258141B2
M3: N-{(3aR,4S,6R,6aS)-6-[2-((R)-3-Amino-pyrrolidin-1-yl)-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-2,2-dimethyl-tetrahydro-cyclopenta[1,3]dioxol-4-yl}-propionamide
To a solution of {(R)-1-[9-((3aS,4R,6S,6aR)-2,2-dimethyl-6-propionylamino-tetrahydro-cyclopenta[1,3]dioxol-4-yl)-6-(2,2-diphenyl-ethylamino)-9H-purin-2-yl]-pyrrolidin-3-yl}-carbamic acid benzyl ester (0.598 g, 0.79 mmol) in ethanol (7.5 ml) under an inert atmosphere of Argon is added palladium hydroxide on carbon (10 mg). The reaction mixture is purged with Argon and placed under an atmosphere of hydrogen overnight. The mixture is filtered and purified by chromatography on silica eluting with 5% MeOH in DCM to yield the title compound. [MH+ 611].

reactant | {(R)-1-[9-((3aS,4R,6S,6aR)-2,2-dimethyl-6-propionylamino-tetrahydro-cyclopenta[1,3]dioxol-4-yl)-6-(2,2-diphenyl-ethylamino)-9H-purin-2-yl]-pyrrolidin-3-yl}-carbamic acid benzyl ester | 0.79 mmol, 0.598 g | C(C1=CC=CC=C1)OC(N[C@H]1CN(CC1)C1=NC(=C2N=CN(C2=N1)[C@@H]1C[C@@H]([C@H]2OC(O[C@H]21)(C)C)NC(CC)=O)NCC(C2=CC=CC=C2)C2=CC=CC=C2)=O | C42H48N8O5
solvent | ethanol | 7.5 ml | C(C)O | C2H6O
catalyst | palladium hydroxide on carbon | 10 mg | [OH-].[OH-].[Pd+2]
product | N-{(3aR,4S,6R,6aS)-6-[2-((R)-3-Amino-pyrrolidin-1-yl)-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-2,2-dimethyl-tetrahydro-cyclopenta[1,3]dioxol-4-yl}-propionamide | N[C@H]1CN(CC1)C1=NC(=C2N=CN(C2=N1)[C@@H]1C[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)NC(CC)=O)NCC(C2=CC=CC=C2)C2=CC=CC=C2 | C34H42N8O3
